US06222073B1
According to GWM, 0.011 mol (=1.00 ml) of aniline and 0.011 mol (=1.43 ml) of β-methylstyrene are reacted with one another. The product is isolated by column chromatography using ethyl acetate/n-hexane (1:10) as eluent, the product (±)-N-(1-methyl-2-phenylethyl)aniline being obtained as a slightly pink liquid.

reactant | aniline | 0.011 mol, 1.00 ml | NC1=CC=CC=C1 | C6H7N
reactant | β-methylstyrene | 0.011 mol, 1.43 ml | CC=CC1=CC=CC=C1 | C9H10
solvent | ethyl acetate n-hexane | C(C)(=O)OCC.CCCCCC
product | (±)-N-(1-methyl-2-phenylethyl)aniline | Yield: 50% | CC(CC1=CC=CC=C1)NC1=CC=CC=C1 | C15H17N
